US04098823
A solution of 7.8 g (130.0 mmol) methyl formate and 4.91 g (32.4 mmol) of 2-methyl-2-acetylspiro[3.3]heptane in 8.0 ml of dry ether was dropped into a slurry of 1.2 g of sodium hydride in 180 ml of ether. A few drops of MeOH were added and the reaction mixture stirred for 1.5 hr at 25° C. The reaction mixture was cooled to -10° C and the reaction quenched by slow addition of water. The layers were separated and the aqueous layer extracted twice with ether. The combined organic extracts were washed with water and 1 N NaOH. The combined aqueous layers were acidified with 6 N HCl and extracted with ether. The ether extracts were washed with brine, then dried (MgSO4), filtered and evaporated in vacuo to yield 4.0 g of (2-methylspiro[3.3]hept-2-yl)(2-hydroxyvinyl)heptane as a yellow oil (69.5%).

reactant | methyl formate | 130.0 mmol, 7.8 g | C(=O)OC | C2H4O2
reactant | 2-methyl-2-acetylspiro[3.3]heptane | 32.4 mmol, 4.91 g | CC1(CC2(C1)CCC2)C(C)=O | C10H16O
reactant | sodium hydride | 1.2 g | [H-].[Na+]
solvent | ether | 8.0 ml | CCOCC | C4H10O
solvent | ether | 180 ml | CCOCC | C4H10O
catalyst | MeOH | A few drops | CO | CH4O
product | (2-methylspiro[3.3]hept-2-yl)(2-hydroxyvinyl)heptane | 4.0 g, 69.5% | CC1(CC2(C1)CCC2)C(CCCCCC)C=CO | C17H30O
